*** with bias circuit
subckt gm_positive_diff vdd vin vip vo vss
    M5 (vb vb vss vss) nch l=l5 w=w5 m=1 \
        ad=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w5*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w5+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w5*2)
    M4 (net4 vb vss vss) nch l=l4 w=w4 m=1 \
        ad=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2)
    M1 (net5 vin net4 net4) nch l=l1 w=w1 m=1 \
        ad=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2)
    M0 (vo vip net4 net4) nch l=l0 w=w0 m=1 \
        ad=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2)
    M3 (net5 net5 vdd vdd) pch l=l3 w=w3 m=1 \
        ad=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2)
    M2 (vo net5 vdd vdd) pch l=l2 w=w2 m=1 \
        ad=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
        as=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
        pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
        nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2) \
        nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2)
    I2 (vdd vb) isource dc=1u type=dc
ends gm_positive_diff


* subckt gm_positive_diff vb vdd vin vip vo vss
*     M4 (net4 vb vss vss) nch l=l4 w=w4 m=1 \
*         ad=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         as=(w4*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w4+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2) \
*         nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w4*2)
*     M1 (net5 vin net4 net4) nch l=l1 w=w1 m=1 \
*         ad=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         as=(w1*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w1+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2) \
*         nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w1*2)
*     M0 (vo vip net4 net4) nch l=l0 w=w0 m=1 \
*         ad=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         as=(w0*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w0+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2) \
*         nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w0*2)
*     M3 (net5 net5 vdd vdd) pch l=l3 w=w3 m=1 \
*         ad=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         as=(w3*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w3+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2) \
*         nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w3*2)
*     M2 (vo net5 vdd vdd) pch l=l2 w=w2 m=1 \
*         ad=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*int(1/2))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         as=(w2*((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))+((0*0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2))))/1 \
*         pd=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(1/2)*5.4e-07*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*((1+1)*(int((1+1)/2)-int(1/2))+(1+0)*(int((1+2)/2)-int((1+1)/2))))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*int(1/2))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         ps=(((4.8e-07+((1-1)*5.4e-07)/2+0)*(int((1+1)/2)-int(1/2))+(4.8e-07+4.8e-07+(int(1/2)-1)*5.4e-07+0+0)*(int((1+2)/2)-int((1+1)/2)))*2+(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-((0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0))*(int((1+1)/2)-int(1/2))+(0*(((1+1)*(int((1+1)/2)-int(1/2))+(1+2)*(int((1+2)/2)-int((1+1)/2)))-0-0))*(int((1+2)/2)-int((1+1)/2))))*w2+((0*((1-1)/2+1-0))*(int((1+1)/2)-int(1/2))+(0*(int(1/2)+1-0-0))*(int((1+2)/2)-int((1+1)/2)))*4)/1 \
*         nrd=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2) \
*         nrs=(5.4e-07+2.7e-07*(1*2-2))/1/(w2*2)
* ends gm_positive_diff
